US07846960B2
[4-(tert-Butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-carbamic Acid Benzyl Ester
To a solution of [4-(tert-butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-carbamic acid benzyl ester (18 g, 48.5 mmol) in DMF (100 mL) is added sodium hydride (60% dispersion in oil, 2.3 g, 58 mmol) in portions at 0° C. The mixture is stirred at room temperature for 30 min, followed by the addition of iodomethane (8.2 g, 58 mmol). The mixture is stirred at room temperature overnight. The solvent is removed under reduced pressure to give a residue, which is partitioned between EtOAc (100 mL) and water (100 mL). The organic phase is washed with brine (100 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to a residue. The residue is purified by flash chromatography to afford the title compound as oil (14.0 g, 75%). LC-ES/MS m/e 386.0 (M+1).

reactant | [4-(tert-butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-carbamic acid benzyl ester | 48.5 mmol, 18 g | C(C1=CC=CC=C1)OC(NC1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)C)=O | C21H29NO3Si
reactant | sodium hydride | 58 mmol, 2.3 g | [H-].[Na+]
reactant | iodomethane | 58 mmol, 8.2 g | IC | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | [4-(tert-Butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-carbamic Acid Benzyl Ester | 14.0 g, 75% | C(C1=CC=CC=C1)OC(N(C)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)C)=O | C22H31NO3Si
